US08455488B2
Synthesis of 4-(4-chlorobenzyl)-1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-59)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 112 mg (0.41 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide (Compound IV-12) 100 mg (0.27 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.41 mmol, 112 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.27 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)C | C19H28N2O3S
product | 4-(4-chlorobenzyl)-1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | ClC1=CC=C(CNC(NN(C)CC(=O)N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=2C3=C(SC2)C=CC=C3)C)=O)C=C1 | C30H40ClN5O5S
